US07009049B2
1.1 7-Chloro-2-isobutyl-benzo[d][1,3]oxazin-4-one
A dry 3-necked, round bottomed flask, equipped with an overhead stirrer, thermometer, dropping funnel, cooling bath and condenser was charged with 406.41 g of 2-amino-4-chlorobenzoic acid (1 eq.), 270 g (1.35 eq.) of sodium bicarbonate, Na2SO4 (as a dehydrating agent) and 1,000 mL of THF. After commencing agitation, 354.7 g (1.2 eq.) of isovaleryl chloride was added dropwise. The reaction was exothermic and generated a gas (CO2). Temperature was maintained around 20–30° C. and completion of the reaction monitored by TLC (EtOAc/hexanes 1:1). The reaction mixture was then filtered and washed with THF (1,000 mL) the majority of which was then stripped off under vacuum. Acetic anhydride (1,450 mL) was then added to the reaction vessel and the temperature raised to 90–100° C. Completion of the reaction monitored by TLC (EtOAc/hexanes 1:1). The acetic anhydride was removed under vacuum at 80–100° C., followed by cooling to 60° C. The reaction vessel was then charged with heptane (1,000 mL) and cooled to 0° C. with stirring. The resulting precipitate was isolated by filtration and then washed with heptane (300 mL) and dried in a vacuum oven at 30° C. overnight to afford the title product (507 g, 90% yield).

reactant | 2-amino-4-chlorobenzoic acid | 406.41 g, 1 eq. | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | sodium bicarbonate | 270 g, 1.35 eq. | C([O-])(O)=O.[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | isovaleryl chloride | 354.7 g, 1.2 eq. | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 1,000 mL | C1CCOC1 | C4H8O
product | 7-Chloro-2-isobutyl-benzo[d][1,3]oxazin-4-one | 507 g, 90% yield | ClC=1C=CC2=C(N=C(OC2=O)CC(C)C)C1 | C12H12ClNO2
